US08420865B2
Step 2a: Synthesis of 4-methoxyphenylphenylpyrenylphosphine oxide [VIa]
Pyrenylphenyl-4-methoxyphenylphosphine [Va] (1.68 g, 4.03 mmol) was dissolved in 25 mL of chloroform, and 5 mL of hydrogen peroxide was slowly added dropwise to the solution. The mixture was stirred for 5 minutes and then the reaction was quenched with 25 mL of 10% sodium thiosulfate. The mixture was extracted with chloroform (20 mL×3). The organic layer was dried over sodium sulfate and concentrated on an evaporator to give white crystals in 97% yield. The white crystals obtained were identified by 1H-NMR, 31P-NMR and 13C-NMR.

reactant | Pyrenylphenyl-4-methoxyphenylphosphine | 4.03 mmol, 1.68 g | C1(=CC=C2C=CC3=CC=CC4=CC=C1C2=C34)P(C3=CC=C(C=C3)OC)C3=CC=CC=C3 | C29H21OP
reactant | hydrogen peroxide | 5 mL | OO | H2O2
solvent | chloroform | 25 mL | C(Cl)(Cl)Cl | CHCl3
product | 4-methoxyphenylphenylpyrenylphosphine oxide | 97% yield | COC1=CC=C(C=C1)P(C1=CC=C2C=CC3=CC=CC4=CC=C1C2=C34)(C3=CC=CC=C3)=O | C29H21O2P
